US05707985
2-(5-Chloro-2-naphthylsulfonyl)-2,5-diazabicyclo-[2.2.1]heptane
2-(5-chloro-2-naphthylsulfonyl)-5-tertiary butoxy carbonyl-2,5-diazabicyclo[2.2.1] heptane (0.50 g, 2 mmol) was dissolved in about 5 ml. EtOAc. HCl gas was bubbled through the solution, resulting in an immediate change of color from orange to yellow. HCl was bubbled in for 15 minutes more and a precipitate started forming at this time. After 30 minutes, the ice bath was removed. The reaction was complete at 2 hours. The precipitate was filtered and triturated with Et2O to give 0.37 g of an off-white powder, mp: 225°-2270° C.

reactant | 2-(5-chloro-2-naphthylsulfonyl)-5-tertiary butoxy carbonyl-2,5-diazabicyclo[2.2.1] heptane | 2 mmol, 0.50 g | ClC1=C2C=CC(=CC2=CC=C1)S(=O)(=O)N1C2CN(C(C1)C2)C(=O)OC(C)(C)C | C20H23ClN2O4S
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(5-Chloro-2-naphthylsulfonyl)-2,5-diazabicyclo-[2.2.1]heptane | 0.37 g | ClC1=C2C=CC(=CC2=CC=C1)S(=O)(=O)N1C2CNC(C1)C2 | C15H15ClN2O2S
